US08871756B2
N-(3-Methylpyrrolidin-3-yl)-acetamide
A mixture of N-(1-benzyl-3-methylpyrrolidin-3-yl)-acetamide (600 mg, 2.6 mmol), palladium on carbon (400 mg, 10%) and ethanol (20 mL) was stirred at 40° C. under 50 Psi of hydrogen for 16 hours. The resulting mixture was filtrated. The filtrate was concentrated in vacuo to give 200 mg of the desired product (yield was 54%), which was used for next step without any purification.

reactant | N-(1-benzyl-3-methylpyrrolidin-3-yl)-acetamide | 2.6 mmol, 600 mg | C(C1=CC=CC=C1)N1CC(CC1)(C)NC(C)=O | C14H20N2O
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(3-Methylpyrrolidin-3-yl)-acetamide | 200 mg, yield was 54% | CC1(CNCC1)NC(C)=O | C7H14N2O
